US08957070B2
N-(2-Ethoxyethyl)-N-{2-[5-(hydroxymethyl)-1,3-thiazol-2-yl]-1H-indol-7-yl}thiophene-2-sulfonamide
7-[(2-Ethoxyethyl) (2-thienylsulfonyl)amino]-1H-indole-2-carbothioamide (3.00 g), bromomalonaldehyde (2.32 g) and N,N-dimethylacetamide (50 mL) were stirred at 95° C. for 3 hr. The reaction mixture was diluted with ethyl acetate and water, and the ethyl acetate layer was washed successively with saturated brine and aqueous sodium bicarbonate, dried over magnesium sulfate and filtrated. The filtrate was concentrated, subjected to silica gel column chromatography and eluted with a mixture of ethyl acetate-hexane (1:1) to give a solid. The solid was dissolved in tetrahydrofuran (50 mL) and methanol (20 mL), sodium borohydride (176 mg) was added and the mixture was stirred at room temperature for 3 days. The reaction mixture was diluted with ethyl acetate and washed with saturated brine. The organic layer was dried over magnesium sulfate and filtrated. The filtrate was concentrated, subjected to silica gel column chromatography and eluted with a mixture of ethyl acetate-hexane (2:1) to give the title compound (1.00 g, yield 29%) as an amorphous form.

reactant | 7-[(2-Ethoxyethyl) (2-thienylsulfonyl)amino]-1H-indole-2-carbothioamide | 3.00 g | C(C)OCCN(C=1C=CC=C2C=C(NC12)C(N)=S)S(=O)(=O)C=1SC=CC1 | C17H19N3O3S3
reactant | bromomalonaldehyde | 2.32 g | BrC(C=O)C=O | C3H3BrO2
reactant | N,N-dimethylacetamide | 50 mL | CN(C(C)=O)C | C4H9NO
reactant | sodium borohydride | 176 mg | [BH4-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | methanol | 20 mL | CO | CH4O
product | N-(2-Ethoxyethyl)-N-{2-[5-(hydroxymethyl)-1,3-thiazol-2-yl]-1H-indol-7-yl}thiophene-2-sulfonamide | 1.00 g, yield 29% | C(C)OCCN(S(=O)(=O)C=1SC=CC1)C=1C=CC=C2C=C(NC12)C=1SC(=CN1)CO | C20H21N3O4S3
